US04374131
A equimolar mixture of triethylamine and chloromethyl pivalate are added to a solution of (±)-1-[[[1-(benzoylamino)-4-phenylbutyl]hydroxyphosphinyl]acetyl]-L-proline, phenylmethyl ester, prepared for example as set forth in Example 20 (d), in dimethylformamide under an argon atmosphere. The mixture is stirred for several hours at room temperature, diluted with ethyl acetate, washed with water, brine, dried (MgSO4), and evaporated. The crude product is chromatographed to give (±)-1-[[[1-(benzoylamino)-4-phenylbutyl][(2,2-dimethyl-1-oxopropoxy)methoxy]phosphinyl]acetyl]-L-proline, phenylmethyl ester.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | chloromethyl pivalate | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | (±)-1-[[[1-(benzoylamino)-4-phenylbutyl]hydroxyphosphinyl]acetyl]-L-proline, phenylmethyl ester | C(C1=CC=CC=C1)(=O)NC(CCCC1=CC=CC=C1)P(=O)(O)CC(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1 | C31H35N2O6P
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (±)-1-[[[1-(benzoylamino)-4-phenylbutyl][(2,2-dimethyl-1-oxopropoxy)methoxy]phosphinyl]acetyl]-L-proline, phenylmethyl ester | C(C1=CC=CC=C1)(=O)NC(CCCC1=CC=CC=C1)P(=O)(OCOC(C(C)(C)C)=O)CC(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1 | C37H45N2O8P
